US09056859B2
6-(4-{[4-(1H-Tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)-5,6,7,8-tetrahydronaphtho[2,3-c]furan-1(3H)-one was prepared in an analogous fashion to that described above for the synthesis of 5-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)propyl]-2-benzofuran-1(3H)-one starting from 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride and 7,8-dihydronaphtho[2,3-c]furan-1,6(3H, 5H)-dione. LC/MS: [(M+1)]+=459.

reactant | 5-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)propyl]-2-benzofuran-1(3H)-one | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCN(CC1)C(CC1=CC2=C(C(OC2)=O)C=C1)C | C24H26N6O3
reactant | 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O
reactant | 7,8-dihydronaphtho[2,3-c]furan-1,6(3H, 5H)-dione | C1(OCC2=C1C=C1CCC(CC1=C2)=O)=O | C12H10O3
product | 6-(4-{[4-(1H-Tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)-5,6,7,8-tetrahydronaphtho[2,3-c]furan-1(3H)-one | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCN(CC1)C1CC2=CC3=C(C(OC3)=O)C=C2CC1 | C25H26N6O3
